US06586633B1
Production of N-(3-Bromo-5-methylbenzyl)methylamine
Triethylamine (3.62 g; 35.8 mmol) was dissolved in 40% solution of methylamine in methanol (100 ml). While the solution was stirred in an ice bath, 3-bromo-5-methylbenzyl bromide (9.44 g; 35.8 mmol) in chloroform/methanol (25 ml/25 ml) was added dropwise. After completion of the addition, the mixture was stirred for 72 hours at room temperature. Subsequently, the solvent was evaporated under reduced pressure, and the residue was taken up in 2N hydrochloric acid (100 ml), followed by washing with ether (100 ml). The aqueous layer was alkalinized with aqueous sodium hydroxide solution, and the mixture was extracted with chloroform (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=1:08→10:1), to thereby yield 5.58 g of the target compound as pale yellow oily matter (yield: 72.8%).

reactant | Triethylamine | 35.8 mmol, 3.62 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-5-methylbenzyl bromide | 35.8 mmol, 9.44 g | BrC=1C=C(CBr)C=C(C1)C | C8H8Br2
solvent | methylamine | CN | CH5N
solvent | methanol | 100 ml | CO | CH4O
solvent | chloroform methanol | 25 ml | C(Cl)(Cl)Cl.CO
product | N-(3-Bromo-5-methylbenzyl)methylamine | yield: 72.8% | BrC=1C=C(CCN)C=C(C1)C | C9H12BrN
